US08222245B2
4-[8-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]butanoic acid
2M Sodium hydroxide (aq) (0.5 ml, 1.000 mmol) was added to a solution of ethyl 4-[8-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]butanoate (Preparation 36) (0.103 g, 0.206 mmol) in ethanol (4 ml) and left at room temperature for 2 hours. The reaction mixture was evaporated and the residue dissolved in water/EtOAc (30 ml of each) and acidified with acetic acid. The organic layer was collected, dried (magnesium sulphate), evaporated and azeotroped with 15 ml of toluene. The title compound was obtained by triturating with ether and filtering off as a white solid (65 mg). δH (400 MHz, d6DMSO) 1.36 (6H, d), 1.70 (2H, m), 2.23 (2H, t), 2.33 (2H, t), 3.02 (2H, m), 3.84 (2H, s), 4.06 (2H, m), 4.89 (1H, m), 7.44 (2H, m), 7.61 (1H, d), 7.72 (1H, dd), 8.10 (1H, dd), 8.18 (1H, d); MS (ES) C24H2635ClN3O5 requires 471; found 472 [M+H]+.

reactant | Sodium hydroxide | 1.000 mmol, 2M, 0.5 ml | [OH-].[Na+]
reactant | ethyl 4-[8-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]butanoate | 0.206 mmol, 0.103 g | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CN(CCO2)CCCC(=O)OCC)C=C1 | C26H30ClN3O5
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-[8-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]butanoic acid | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CN(CCO2)CCCC(=O)O)C=C1 | C24H26ClN3O5
